US04267317
In a reactor, 30 g of tetrahydrofuran was charged and 12.7 g (0.05 mole) of 4-(4-trifluoromethylphenoxy)phenol, 14.3 g (0.055 mole) of 3,4-dibromopentanoic acid and 16.6 g of potassium carbonate were charged. They were refluxed for 6 hours to react them. After the reaction, tetrahydrofurane was distilled off from the reaction mixture and then 50 ml of chlorobenzene was added to the resulting mixture and then conc. hydrochloric acid was added to the resulting mixture with stirring to be acidic and then, the water phase was separated and the organic phase washed with water and then, chlorobenzene and low boiling by-products were distilled off at 100° C. under a reduced pressure (0.02-0.05 mmHg) to obtain 13.2 g of 4-[4-(4-trifluoromethylphenoxy)phenoxy]-2-pentenoic acid. (nD20 1.5284). The yield was 75%.

reactant | 4-(4-trifluoromethylphenoxy)phenol | 0.05 mole, 12.7 g | FC(C1=CC=C(OC2=CC=C(C=C2)O)C=C1)(F)F | C13H9F3O2
reactant | 3,4-dibromopentanoic acid | 0.055 mole, 14.3 g | BrC(CC(=O)O)C(C)Br | C5H8Br2O2
reactant | potassium carbonate | 16.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofurane | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 g | O1CCCC1 | C4H8O
product | 4-[4-(4-trifluoromethylphenoxy)phenoxy]-2-pentenoic acid | 13.2 g, yield was 75% | FC(C1=CC=C(OC2=CC=C(OC(C=CC(=O)O)C)C=C2)C=C1)(F)F | C18H15F3O4
